US04294835
50 ml of dichloromethane was added to 7.9 g of N-(1,2,2,2-tetrachloroethyl)-2-acetoxybenzamide. 1.3 g of ethyl mercaptan was add to the solution under stirring and then 2.0 g of triethylamine was added dropwise thereto at 10°-15° C. After effecting the reaction at room temperature for one hour, water was added thereto and the solution was allowed to stand. Then the dichloromethane layer was separated out, dried with unhydrous sodium sulfate and concentrated to obtain 7.0 g of N-(1-ethylthio-2,2,2-trichloroethyl)-2-acetoxybenzamide as white crystals.

reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | N-(1,2,2,2-tetrachloroethyl)-2-acetoxybenzamide | 7.9 g | ClC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(C)=O)=O | C11H9Cl4NO3
reactant | ethyl mercaptan | 1.3 g | C(C)S | C2H6S
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | N-(1-ethylthio-2,2,2-trichloroethyl)-2-acetoxybenzamide | 7.0 g | C(C)SC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(C)=O)=O | C13H14Cl3NO3S
